US06919332B2
A solution of 5-(4-methoxy-phenoxy)-2-pyridin-3-yl-2H-indazole (0.050 grams, mmol) in 1 mL of methanesulfonic acid was treated with 0.1 grams of methionine. After stirring for 24 hours at room temperature, the mixture was treated with 0.6 grams of sodium hydroxide in 25 mL of water with cooling in an ice bath, neutralized with aqueous sodium bicarbonate, extracted 3 times with ethyl acetate, and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo, affording 0.05 grams of 4-(2-Pyridin-3-yl-2H-indazol-5-yloxy)-phenol as a colorless syrup. MS: 304.4 [M+H]+

reactant | 5-(4-methoxy-phenoxy)-2-pyridin-3-yl-2H-indazole | 0.050 grams | COC1=CC=C(OC2=CC3=CN(N=C3C=C2)C=2C=NC=CC2)C=C1 | C19H15N3O2
reactant | methionine | 0.1 grams | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | sodium hydroxide | 0.6 grams | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanesulfonic acid | 1 mL | CS(=O)(=O)O | CH4O3S
solvent | water | 25 mL | O | H2O
product | 4-(2-Pyridin-3-yl-2H-indazol-5-yloxy)-phenol | 0.05 grams | N1=CC(=CC=C1)N1N=C2C=CC(=CC2=C1)OC1=CC=C(C=C1)O | C18H13N3O2
